US04900839
To an ice-cooled stirred solution of 1-(4-amino-3-cyano-5-trifluoromethylphenyl)-2,4-dimethylimidazole (0.7 g) in tetrahydrofuran (10 cm3) was added 3.5 cm3 of a 1.5M solution of diisobutyl aluminium in toluene. The mixture was heated at 40° for 2 hours, cooled in ice, treated with methanol (2 cm3), and evaporated in vacuo. The residue was treated with water (25 cm3) and 2M hydrochloric acid (5 cm3), and heated on a steam bath for five minutes. The solution was then cooled, basified to pH 8 with aqueous sodium carbonate solution, and extracted with chloroform:methanol, 20:1 (3×30 cm3). The combined organic extracts were dried (MgSO4), evaporated in vacuo, and the residue was chromatographed on silica (Merck "MK 60.9385" [Trade Mark]) eluting with ethyl acetate:methanol, 50:1, to afford 1-(4-amino-3-formyl-5-trifluoromethylphenyl)-2,4-dimethylimidazole, m.p. 200°-202°, (0.391 g).

reactant | 1-(4-amino-3-cyano-5-trifluoromethylphenyl)-2,4-dimethylimidazole | 0.7 g | NC1=C(C=C(C=C1C(F)(F)F)N1C(=NC(=C1)C)C)C#N | C13H11F3N4
reactant | diisobutyl aluminium | C(C(C)C)[Al]CC(C)C
reactant | methanol | 2 cm3 | CO | CH4O
solvent | tetrahydrofuran | 10 cm3 | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(4-amino-3-formyl-5-trifluoromethylphenyl)-2,4-dimethylimidazole | NC1=C(C=C(C=C1C(F)(F)F)N1C(=NC(=C1)C)C)C=O | C13H12F3N3O
